US07960404B2
Stage 3: 4-Azetidin-1-yl-4-phenylcyclohexanone (Keto Structural Unit 1)
6 N Hydrochloric acid (2 ml) was added to a solution of 1-(8-phenyl-1,4-dioxaspiro[4,5]dec-8-yl)azetidine (370 mg, 1.3 mmol) in acetone (30 ml) and the mixture was stirred overnight at room temperature. The pH was adjusted to 10 by the addition of 5 N sodium hydroxide solution and the aqueous phase was extracted with dichloromethane (3×20 ml). The combined organic phases were dried with sodium sulfate and concentrated to small volume under vacuum. Yield: 274 mg (92%), white solid. Melting point: not determinable

reactant | Hydrochloric acid | 6 N, 2 ml | Cl | ClH
reactant | 1-(8-phenyl-1,4-dioxaspiro[4,5]dec-8-yl)azetidine | 1.3 mmol, 370 mg | C1(=CC=CC=C1)C1(CCC2(OCCO2)CC1)N1CCC1 | C17H23NO2
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 4-Azetidin-1-yl-4-phenylcyclohexanone | N1(CCC1)C1(CCC(CC1)=O)C1=CC=CC=C1 | C15H19NO
